US08217064B2
To a stirred solution of ethyl 1-(4-amino-3-(2,2,2-trifluoroethoxy)phenyl)cyclobutanecarboxylate (2.4 g, 8.3 mmol) in dry CHCl3 (50 mL), NBS (1.4 g, 7.8 mmol) was added at 0° C. The reaction mixture was allowed to stir for 3 h at room temperature to complete the reaction. The reaction mixture was diluted with water, extracted with DCM (2×50 mL), the combined organic solvents were dried over Na2SO4, filtered and concentrated under educed pressure. The crude reaction mixture was purified by column chromatography to give ethyl 1-(4-amino-3-bromo-5-(2,2,2-trifluoroethoxy)phenyl)cyclobutanecarboxylate (1.5 g) as a yellow solid.

reactant | ethyl 1-(4-amino-3-(2,2,2-trifluoroethoxy)phenyl)cyclobutanecarboxylate | 8.3 mmol, 2.4 g | NC1=C(C=C(C=C1)C1(CCC1)C(=O)OCC)OCC(F)(F)F | C15H18F3NO3
reactant | NBS | 7.8 mmol, 1.4 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | ethyl 1-(4-amino-3-bromo-5-(2,2,2-trifluoroethoxy)phenyl)cyclobutanecarboxylate | 1.5 g | NC1=C(C=C(C=C1OCC(F)(F)F)C1(CCC1)C(=O)OCC)Br | C15H17BrF3NO3
